US08614234B2
To a stirred suspension of 4-(2-(1H-pyrrol-2-yl)pyridin-4-yl)aniline TFA salt (60 mg, 0.17 mmol) in anhydrous THF (10 ml) was added 2-fluoro-5-methyl-phenylisocyanate (48 mg, 0.32 mmol) and N,N-diisopropylethylamine (40 mg, 0.31 mmol). After 1 hour, the reaction mixture was evaporated and purified by silica gel chromatography with 2-3% MeOH/CHCl3 to give 1-(2-fluoro-5-methylphenyl)-3-{4-[2-(1H-pyrrol-2-yl)pyridin-4-yl]phenyl}urea as off-white solid. Yield: 28 mg.

reactant | 4-(2-(1H-pyrrol-2-yl)pyridin-4-yl)aniline TFA salt | 0.17 mmol, 60 mg | OC(=O)C(F)(F)F.N1C(=CC=C1)C1=NC=CC(=C1)C1=CC=C(N)C=C1
reactant | 2-fluoro-5-methyl-phenylisocyanate | 0.32 mmol, 48 mg | FC1=C(C=C(C=C1)C)N=C=O | C8H6FNO
reactant | N,N-diisopropylethylamine | 0.31 mmol, 40 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(2-fluoro-5-methylphenyl)-3-{4-[2-(1H-pyrrol-2-yl)pyridin-4-yl]phenyl}urea | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(C=C1)C1=CC(=NC=C1)C=1NC=CC1 | C23H19FN4O
